Name:  ___     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Dapsone / methotrexate
 
Attending: ___.
 
Chief Complaint:
elective admission for high dose methotrexate
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ primarily ___ speaking man with coronary artery disease 

s/p BMS to large OM branch in ___ for inferior STEMI, HIV on 
ART (CD4 275, viral load undetectable in ___, 
high-grade CNS B cell lymphoma (brain stem) s/p brain biopsy, on 

high-dose MTX (started ___, presenting 
for cycle 10 of high dose methotrexate. After cycle 4 he had an 
MRI which showed improvement in his disease but some areas of 
residual enhancement. He continued on 2 week intervals until 
cycle 7, at which point MRI improved so switched to monthly 
cycles.

On arrival to the floor today he feels well. came back from ___ 
___ ago. He has no abdominal pain, no nausea, no vomiting, 
no fevers. He has no headache. 
He has increased sensitivity of his R scalp, which has been an 
ongoing problem for many years, since he had shingles. he has no 

runny nose, fevers, or cough. He has some tingling in his left 
foot which is 
stable. His vision is about the same (some double vision but 
improved from before). He has some pain in his ankle and in the 
small joints of his hands that gets better with movement. He has 
developed some pain in his R shoulder also for the last few 
days. no trauma or exertion prior to pain starting

Of note, the patient was admitted on ___ with anal HSV2 
infection. He was treated with treatment dose acyclovir for 7 
days and continued acyclovir daily for prophylaxis. As an 
outpatient he was found to have breakthrough lesions on 
suppressive acyclovir and his PCP started him on treatment doses 

of valacyclovir 1g BID. He has subsequently been transitioned to 

higher dose acyclovir 800mg BID and has not had any breakthrough 

lesions.

REVIEW OF SYSTEMS:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, rhinorrhea or congestion. Denies chest 
pain, chest pressure, or weakness. Denies nausea, vomiting, 
constipation, abdominal pain. Denies dysuria, or 
myalgias. Denies rashes or skin changes. All other ROS negative  


 
Past Medical History:
PAST ONCOLOGIC HISTORY:
-- ___ - stereotaxic biopsy of the mass by Dr. ___  
-- ___ - started high-dose methotrexate  
-- ___ - C2D1 HD-MTX
-- ___  - C3D1 HD-MTX
-- ___ - C4D1 HD-MTX
-- ___   - C5D1 HD-MTX
-- ___  - C6D1 HD-MTX
-- ___   - C7D1 HD-MTX
-- ___   - C8D1 HD-MTX
-- ___  - C9D1 HD-MTX
 
PAST MEDICAL HISTORY:
-CNS B-cell Lymphoma
-CAD s/p BMS to large OM branch in ___ - chronically occluded 
LAD collateralized from the right coronary artery
-HIV on ART 
-history of pancreatitis ___ HIV medication
-Hypertension
-Hyperlipidemia
-Gastric ulcer
-anal HSV
-R ophthalmic zoster
 
Social History:
___
Family History:
Family history is notable for father and brother with prostate 
cancer, and 
several paternal aunts with breast cancer and maternal uncles 
with diabetes.
 
Physical Exam:
VS: 98.0   120/64    56   18     100%RA
GEN: alert, oriented to name, place and situation. no acute
signs of distress.
HEENT: NCAT, Pupils equal and reactive, sclerae non-icteric,
MMM, OP clear no erythema.
Neck: Supple
Lymph nodes: No cervical, supraclavicular or axillary LAD.
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.
RESP: Good air movement bilaterally, no rhonchi or wheezing.
ABD: Soft, non-tender, non-distended, no hepatosplenomegaly
EXTR: No lower leg edema. tingling sensation L foot but no
sensory loss. no swelling over joints of hands. point tenderness 
on anterior aspect of R shoulder
DERM: No active rash
Neuro: muscle strength grossly full and symmetric in all major
muscle groups
PSYCH: Appropriate and calm. 
 
Pertinent Results:
==================================
              Labs
==================================
___ 12:50PM BLOOD WBC-5.8 RBC-4.44* Hgb-13.8* Hct-39.3* 
MCV-88 MCH-31.0 MCHC-35.1* RDW-14.2 Plt ___
___ 06:40AM BLOOD WBC-4.0 RBC-4.37* Hgb-13.7* Hct-39.4* 
MCV-90 MCH-31.3 MCHC-34.8 RDW-13.5 Plt ___
___ 12:50PM BLOOD Glucose-90 UreaN-15 Creat-0.9 Na-135 
K-4.2 Cl-104 HCO3-26 AnGap-9
___ 06:40AM BLOOD Glucose-113* UreaN-9 Creat-0.9 Na-141 
K-3.5 Cl-100 HCO3-33* AnGap-12
___ 12:50PM BLOOD ALT-13 AST-11 LD(LDH)-135 AlkPhos-73 
TotBili-0.3
___ 06:40AM BLOOD ALT-24 AST-16 AlkPhos-59 TotBili-0.5
___ 12:50PM BLOOD Albumin-4.2 Calcium-9.4 Phos-3.6 Mg-1.8
___ 05:40AM BLOOD mthotrx-0.43
___ 06:40AM BLOOD mthotrx-0.08
___ 05:40AM BLOOD ___

 
Brief Hospital Course:
___ male with HIV, CAD, CNS lymphoma here for cycle 10 high 
dose 
methotrexate treatment. MRI after cycle 4 showed residual 
disease, so he continued on 2 week intervals until cycle 7, at 
which point MRI improved so switched to monthly cycles. After 
urinary alkalinization, he received methotrexate 16960mg 
(8g/m2).  
This was followed by leucovorin rescue 24 hours later. His 
methotrexate level on ___ is 0.08. He was discharged 
home in good condition. He has been asked to report back to ___ 
___ on ___ for the next cycle (#11). He will come early 
and receive a port-a-cath that day. He will also see 
ophthalmology for a slit lamp exam that day. He has had stable 
double vision since diagnosis

For his HSV, he has been on acyclovir 800mg BID and will be 
monitored for symptoms. He continued his metoprolol and 
lisinopril at 12.5mg and 2.5mg respectively with good control of 

blood pressure. On previous admissions his blood pressures have 
run 
slightly low but he has continued these medications without 
problem. 

# Dispo: 
[x] Discharge documentation reviewed, pt is stable for 
discharge.
[x] Time spent on discharge activity was greater than 30min.
[ ] Time spent on discharge activity was less than 30min.

# Active meds: See below.

____________________________________
___, MD, pager ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 800 mg PO Q12H 
2. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
3. Fish Oil (Omega 3) 1000 mg PO DAILY 
4. Lisinopril 2.5 mg PO DAILY 
5. Lopinavir-Ritonavir 2 TAB PO BID 
6. Metoprolol Succinate XL 12.5 mg PO DAILY 
7. Pravastatin 40 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Omeprazole 40 mg PO DAILY 

 
Discharge Medications:
1. Acyclovir 800 mg PO Q12H 
2. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
3. Fish Oil (Omega 3) 1000 mg PO DAILY 
4. Lisinopril 2.5 mg PO DAILY 
5. Lopinavir-Ritonavir 2 TAB PO BID 
6. Metoprolol Succinate XL 12.5 mg PO DAILY 
7. Pravastatin 40 mg PO DAILY 
8. Aspirin 81 mg PO DAILY 
9. Omeprazole 40 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
CNS lymphoma
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking care of you during your stay at ___. You were admitted for treatment of
your brain lymphoma with high dose methotrexate chemotherapy.
You tolerated the chemo very well with no complications. You
should return to ___ on ___ for your next treatment.
 
Followup Instructions:
___